US09029391B2
2-(8-fluoro-5-methylchroman-6-carbonyl)benzoic acid
An ice cold mixture of 8-fluoro-5-methylchroman (0.955 g, 5.75 mmol) in 1,2-Dichloroethane (DCE) (10 mL) was treated with aluminum chloride (1.532 g, 11.49 mmol) followed by isobenzofuran-1,3-dione (0.809 g, 5.46 mmol). The mixture was allowed to warm to ambient temperature and stirred for 90 minutes. Water was then added and the mixture was extracted with ethyl acetate. The extracts were washed with brine, dried over sodium sulfate, filtered and concentrated to give the title compound as an off-white solid: 1H NMR (400 MHz, DMSO-d6) δ ppm 1.92-2.05 (m, 2 H), 2.34 (s, 3 H), 2.62-2.79 (m, 2 H), 4.15-4.30 (m, 2 H), 6.68 (d, J=11.73 Hz, 1 H), 7.40 (d, J=7.43 Hz, 1 H), 7.51-7.76 (m, 2 H), 7.88 (d, J=7.43 Hz, 1 H), 13.15 (br. s., 1 H); LC/MS (m/z) ES+=315 (M+1).

reactant | 8-fluoro-5-methylchroman | 5.75 mmol, 0.955 g | FC=1C=CC(=C2CCCOC12)C | C10H11FO
reactant | aluminum chloride | 11.49 mmol, 1.532 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | isobenzofuran-1,3-dione | 5.46 mmol, 0.809 g | C1(OC(C2=CC=CC=C12)=O)=O | C8H4O3
reactant | Water | O | H2O
solvent | 1,2-Dichloroethane | 10 mL | ClCCCl | C2H4Cl2
product | 2-(8-fluoro-5-methylchroman-6-carbonyl)benzoic acid | FC=1C=C(C(=C2CCCOC12)C)C(=O)C1=C(C(=O)O)C=CC=C1 | C18H15FO4
